US07947693B2
a) (2R)-2-[[2-Amino-5-(benzylthio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl](methyl)amino]-4-methylpentan-1-ol
5-(Benzylthio)-7-chloro[1,3]thiazolo[4,5-d]pyrimidin-2-amine (1.5 g, 4.86 mmol), DIPEA (691 mg, 5.35 mmol) and (R)—N-methylleucinol (956 mg, 7.29 mmol) were mixed in NMP (7.5 mL). The resulting solution was stirred at 110° C. under a nitrogen atmosphere for 2 days. After cooling to room temperature the reaction mixture was poured onto ice. The resulting yellow precipitate was collected by filtration, washed with water and dried in vacuo. The crude product was purified by flash column chromatography on silica (DCM:EtOAc 50:50 to 0:100) to give 1.42 g (72% yield) of the title compound as a yellow solid.

reactant | 5-(Benzylthio)-7-chloro[1,3]thiazolo[4,5-d]pyrimidin-2-amine | 4.86 mmol, 1.5 g | C(C1=CC=CC=C1)SC=1N=C(C2=C(N1)N=C(S2)N)Cl | C12H9ClN4S2
reactant | DIPEA | 5.35 mmol, 691 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)—N-methylleucinol | 7.29 mmol, 956 mg | CN[C@H](CC(C)C)CO | C7H17NO
solvent | NMP | 7.5 mL | CN1CCCC1=O | C5H9NO
product | (2R)-2-[[2-Amino-5-(benzylthio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl](methyl)amino]-4-methylpentan-1-ol | 1.42 g, 72% yield | NC=1SC2=C(N=C(N=C2N([C@@H](CO)CC(C)C)C)SCC2=CC=CC=C2)N1 | C19H25N5OS2
